2102-11-24 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2102-11-23**] 11:42 PM
 FEVER - 103.1
F - [**2102-11-23**] 11:00 PM
   Pts VS stabilzed prior to transfer.
   She made great UO overnight.
   Bleeding slowed to changing pad once per hour until 4 AM then declined
   further and was able to tolerate diaper.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2102-11-24**] 02:30 AM
   Ampicillin - [**2102-11-24**] 06:06 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-24**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.9
C (100.3
   HR: 79 (70 - 95) bpm
   BP: 100/56(70) {100/56(69) - 157/117(134)} mmHg
   RR: 23 (19 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
           Total In:
                                                                     19 mL
                                                                  3,754 mL
   PO:
           TF:
   IVF:
   272 mL
   Blood products:
                                                                     19 mL
                                                                    481 mL
   Total out:
                                                                    650 mL
                                                                  1,820 mL
   Urine:
                                                                    650 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -631 mL
                                                                  1,934 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.48/29/91/24/0
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: mild suprapubic tenderness
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   111 K/uL
   8.8 g/dL
   102 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.5 mEq/L
   11 mg/dL
   111 mEq/L
   143 mEq/L
   25.3 %
   10.9 K/uL
        [image002.jpg]
                            [**2102-11-23**]  10:13 PM
                            [**2102-11-23**]  10:22 PM
                            [**2102-11-24**]  03:50 AM
   WBC
   7.8
   10.9
   Hct
   20.8
   20
   25.3
   Plt
   135
   111
   Cr
   0.9
   0.9
   TCO2
   22
   Glucose
   103
   102
   Other labs: PT / PTT / INR:16.2/43.6/1.4, Fibrinogen:163 mg/dL, Lactic
   Acid:2.2 mmol/L, LDH:350 IU/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   A/P: 22yo W s/p vaginal delivery here with fevers [**2-27**] pyometrium and
   retained products. Case was complicated by significant vaginal bleeding
   and atonic uterus.
    Shock: Likely a combination of septic and hemorrhagic physiology.
   Patient has received a total of 6.5L of fluid and 3u of blood.
   - Continue monitor HCTs and DIC labs  q 6 hrs
   - Transfuse for HCT < 25, plt < 100, fibrinogen <100, INR >2
   - continue abx coverage and f/u cultures
   - continue methergen for management of uterine atony
   - f/u OB recs
   Pyometrium/Endometritis: s/p D and C with purulent drainage
   - Will continue abx for now and follow up cultures.
   - monitor fever cure and wbc count
   - remainder of plan per OB
   Uterine atony: Continue to ooze but bleeding has slowed significantly
   - continue  methergin
   - monitor bleeding
   - plan per OB
   FEN: NPO for now, IVFs, blood products, replete lytes PRN- monitor
   calcium
   Access: 2 large bore PIVs
   CODE: FULL
   Contact: [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 9651**] [**Name2 (NI) 9652**] [**Numeric Identifier 9653**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-23**] 11:42 PM
   16 Gauge - [**2102-11-23**] 11:44 PM
   18 Gauge - [**2102-11-23**] 11:46 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2102-11-24 10:14:00 Physician Attending Progress Note
Chief Complaint: Septic and hypovolemic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to experience lower abdominal and pelvic pain.
   Continues to pass blood and clots via vagina.
   Repeat Hct remains 20-21, suggesting ongoing bleeding.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2102-11-24**] 06:06 AM
   Clindamycin - [**2102-11-24**] 09:10 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-11-24**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.2
C (98.9
   HR: 102 (70 - 102) bpm
   BP: 152/108(123) {91/56(69) - 157/117(134)} mmHg
   RR: 24 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
           Total In:
                                                                     19 mL
                                                                  3,831 mL
   PO:
           TF:
   IVF:
   350 mL
   Blood products:
                                                                     19 mL
                                                                    481 mL
   Total out:
                                                                    650 mL
                                                                  2,220 mL
   Urine:
                                                                    650 mL
                                                                  2,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -631 mL
                                                                  1,611 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.48/29/91/24/0
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: Firm fundus, 3 cm below umbilicus, No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   111 K/uL
   102 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.5 mEq/L
   11 mg/dL
   111 mEq/L
   143 mEq/L
   25.3 %
   10.9 K/uL
        [image002.jpg]
                            [**2102-11-23**]  10:13 PM
                            [**2102-11-23**]  10:22 PM
                            [**2102-11-24**]  03:50 AM
   WBC
   7.8
   10.9
   Hct
   20.8
   20
   25.3
   Plt
   135
   111
   Cr
   0.9
   0.9
   TCO2
   22
   Glucose
   103
   102
   Other labs: PT / PTT / INR:16.2/43.6/1.4, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:163 mg/dL,
   Lactic Acid:2.2 mmol/L, Albumin:2.3 g/dL, LDH:350 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   SEPSIS -- Responded to current level of therapy. Continue current
   management.
   PYOMETREIUM -- Continue antimicrobials (Amp/Gent/Clinda).  Monitor
   exam.
   ANEMIA -- s/p transfusion.  Transfuse if Hct <25
   FLUIDS -- replete.  Euvolemic.  Monitor I/O, maintain balance.
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 22F 10d post NSVD p/w retained products,
   fevers and blood loss anemia. Presented with fevers to 104, taken for
   urgent D+C (large volume of purulent material and blood drained out),
   treated with broad antibiotic coverage, pitocin and methylsergide for
   uterine atony and ongoing bleeding. Developed hypotension (70/40) in
   [**Hospital 2571**] transferred to [**Hospital Unit Name 4**]. Has now received 3 units PRBCs (HCT 34 - 20
   - 25), 1 unit cryo.
   Exam notable for Tm 105.0 BP 92/55 HR 82 RR 18 with sat 98 on RA. WD
   woman, NAD. JVD flat. CTAB. RRR s1s2 hyperdynamic. Soft +BS. No edema.
   Labs notable for WBC 10K, HCT 25, K+ 3.5, Cr 0.9, lactate 1.6 from 2.1,
   INR 1.6, fib 97.
   Agree with plan to manage mixed septic / hypovolemic shock with broad
   antibiotic coverage for pyometrium (amp/gent/clinda) while awaiting
   culture data. For postop hemorrhage / blood loss anemia will continue
   ongoing PRBC transfusion with serial monitoring of HCT and DIC labs /
   coags q6h (goal HCT >25, PLTs >100, INR <2.0, fibrinogen >100). Will
   continue methergin rx for uterine atony, would redose pitocin for acute
   decompensation. Appreciate input from OB team, will d/w pt if she is
   breastfeeding and provide pump to bedide if so. Remainder of plan as
   outlined above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-23**] 11:42 PM
   16 Gauge - [**2102-11-23**] 11:44 PM
   18 Gauge - [**2102-11-23**] 11:46 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-11-25 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2102-11-24**] 07:30 PM
 INVASIVE VENTILATION - START [**2102-11-24**] 11:11 PM
 OR RECEIVED - At [**2102-11-24**] 11:30 PM
 BLOOD CULTURED - At [**2102-11-25**] 04:30 AM
 MULTI LUMEN - START [**2102-11-25**] 05:52 AM
 FEVER - 104.6
F - [**2102-11-24**] 03:30 PM
   [**11-24**]
   Underwet D+E. CLots removed. profuse bleeding. ex-lap performed. B
   [**Doctor Last Name **] sutures in place BL. Ligated uterine arteries BL. Bleeding
   stoped. Lost 2 L blood. Repleted with 4 RBC, 6 FFP, 2 PLt. 1 cryo. 4 L
   IVF. 4 L UO intraop. Intra-op labs HCT 33, plt 60. INR 1.4, fibrinogen
   170s (prior to FFP). No pressors needed. Got Kefzol(cefazolin) 4gm
   total 2 doses intraop Recs: DIC labs q4h. monitor vag bleed.
   Vanco(replacing amp), gent, clinda . ON potosin 40 U in 1L bag at
   100cc/hr. 2 dose of methergin IM 0.2mg in 4hr, another in 4hr. hold for
   SBP 140/90. Diffuse diarrhea [**2-27**] Hemabate which is NL. afebrile in OR.
   GOt potosin, 1000ug cytotec. 1 dose methergin 1 dose hemabat in OR.
   [**First Name4 (NamePattern1) 8938**] [**Last Name (NamePattern1) 353**]. [**Numeric Identifier 9679**] consult OB/GYn
   -pCO2 51 --> increased respiratory rate to 20 --> rechecked gas (PCO2
   34) --> decreased vent rate to 15 --> rechecked gas (PCO2 42)
   -spiking temperatures to Tm 104, hypotension to 80s-90s, gave 3 1L IV
   fluid boluses and placed central line (called HCP for consent)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2102-11-24**] 06:06 AM
   Vancomycin - [**2102-11-24**] 11:31 PM
   Gentamicin - [**2102-11-25**] 01:00 AM
   Clindamycin - [**2102-11-25**] 02:32 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-25**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.6
   Tcurrent: 38.9
C (102.1
   HR: 84 (66 - 122) bpm
   BP: 98/54(71) {91/51(67) - 169/108(129)} mmHg
   RR: 11 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  7,827 mL
                                                                  5,585 mL
   PO:
           TF:
   IVF:
                                                                  1,968 mL
                                                                  5,305 mL
   Blood products:
                                                                  2,859 mL
                                                                    280 mL
   Total out:
                                                                  4,800 mL
                                                                  2,860 mL
   Urine:
                                                                  4,650 mL
                                                                  2,860 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  3,027 mL
                                                                  2,725 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   PEEP: 5 cmH2O
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/42/205/29/4
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Well nourished young african american female,
   intubated and sedated , not responsive to voice, responsive to
   palpation of uterus
   Eyes / Conjunctiva: PERRL
   Cardiovascular: regular rate and rhythm, no murmurs apprecaited
   Respiratory / Chest: coarse, ventilated breath sounds, no wheeze
   appreciated.
   Abdominal: Soft, Tender: NABS, soft, uterus TTP, 1.5-2cm below
   umbilicus,
   Extremities: no edema B/L LE, 2+ DP and PT
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   125 K/uL
   8.2 g/dL
   107 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.5 mEq/L
   9 mg/dL
   107 mEq/L
   142 mEq/L
   22.2 %
   10.5 K/uL
        [image002.jpg]
                            [**2102-11-24**]  02:49 PM
                            [**2102-11-24**]  03:14 PM
                            [**2102-11-24**]  05:05 PM
                            [**2102-11-24**]  08:55 PM
                            [**2102-11-24**]  09:06 PM
                            [**2102-11-25**]  12:49 AM
                            [**2102-11-25**]  01:21 AM
                            [**2102-11-25**]  03:44 AM
                            [**2102-11-25**]  05:06 AM
                            [**2102-11-25**]  05:14 AM
   WBC
   10.3
   9.7
   12.2
   10.5
   Hct
   22.6
   20.7
   26.0
   33
   29.1
   22.2
   Plt
   119
   116
   62
   160
   125
   Cr
   1.1
   1.0
   TCO2
   22
   31
   30
   29
   Glucose
   141
   152
   107
   Other labs: PT / PTT / INR:13.7/32.1/1.2, ALT / AST:18/36, Alk Phos / T
   Bili:43/0.7, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:7.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:205 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.5 g/dL, LDH:444 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   A/P: 22yo AAF s/p vaginal delivery here with fevers [**2-27**] pyometrium and
   retained POCs, complicated by significant VB and uterine atony, now s/p
   D&E w/ B/L uterine artery ligation.
   1. Pyometrium/endometritis- s/p D&E w/ US showing fluid collection in
   pelvis
   - will continue Abx Vanc/ Gent/ Clinda broad coverage
   - continue trend fever curve (102s now from 104) and WBC
   - f/u OB recs
   - CT pelvis w/ contrast to r/o septic thrombophlebitis
    2. Uterine atony-  profuse blood loss, hypotension and shock [**2-27**]
   septic and hemorrhagic physiology. Patient has received a total of 6.5L
   of fluid and 3u of blood. Had 2 u PRBC this AM
   - Continue monitor HCTs and DIC labs  q 4 hours
   - Transfuse for HCT < 25, plt < 100, fibrinogen <100, INR >2
   - continue abx coverage and f/u cultures
   - monitor bleeding
   - continue methergin and pitocin for management of uterine atony
   - f/u OB recs
   - if hemodynamically unstable, low threshold to call OB for OR-> pt
   consented for hysterectomy
   FEN: Clears, IVFs, blood products, replete lytes PRN- monitor calcium
   Contact: [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 9651**] (HCP)
   [**Name (NI) 9652**] (bf) [**Numeric Identifier 9653**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-23**] 11:42 PM
   18 Gauge - [**2102-11-23**] 11:46 PM
   16 Gauge - [**2102-11-24**] 11:06 PM
   Multi Lumen - [**2102-11-25**] 05:52 AM R-IJ
   Prophylaxis:
   DVT: venodynes
   Stress ulcer:  pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-11-25 09:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: endometritis, uterine hemorrhage, hypotension,
   respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2102-11-24**] 07:30 PM
 INVASIVE VENTILATION - START [**2102-11-24**] 11:11 PM
 OR RECEIVED - At [**2102-11-24**] 11:30 PM
 BLOOD CULTURED - At [**2102-11-25**] 04:30 AM
 MULTI LUMEN - START [**2102-11-25**] 05:52 AM
 FEVER - 104.6
F - [**2102-11-24**] 03:30 PM
   To OR for continued hemorrhage --> bilateral uterine artery ligation
   and compression sutures
   CVL placed
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2102-11-24**] 06:06 AM
   Gentamicin - [**2102-11-25**] 01:00 AM
   Clindamycin - [**2102-11-25**] 02:32 AM
   Vancomycin - [**2102-11-25**] 07:56 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   clinda, gent, vanco, oxytocin gtt, propofol, methergine x 3 doses
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-25**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.6
   Tcurrent: 38.4
C (101.2
   HR: 84 (66 - 122) bpm
   BP: 98/54(71) {93/51(67) - 169/108(129)} mmHg
   RR: 11 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  7,827 mL
                                                                  6,317 mL
   PO:
           TF:
   IVF:
                                                                  1,968 mL
                                                                  5,617 mL
   Blood products:
                                                                  2,859 mL
                                                                    700 mL
   Total out:
                                                                  4,800 mL
                                                                  3,040 mL
   Urine:
                                                                  4,650 mL
                                                                  3,040 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  3,027 mL
                                                                  3,277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/42/205/29/4
   Ve: 6.4 L/min
   PaO2 / FiO2: 512
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: palpable uterus
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   8.2 g/dL
   125 K/uL
   107 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.5 mEq/L
   9 mg/dL
   107 mEq/L
   142 mEq/L
   22.2 %
   10.5 K/uL
        [image002.jpg]
                            [**2102-11-24**]  02:49 PM
                            [**2102-11-24**]  03:14 PM
                            [**2102-11-24**]  05:05 PM
                            [**2102-11-24**]  08:55 PM
                            [**2102-11-24**]  09:06 PM
                            [**2102-11-25**]  12:49 AM
                            [**2102-11-25**]  01:21 AM
                            [**2102-11-25**]  03:44 AM
                            [**2102-11-25**]  05:06 AM
                            [**2102-11-25**]  05:14 AM
   WBC
   10.3
   9.7
   12.2
   10.5
   Hct
   22.6
   20.7
   26.0
   33
   29.1
   22.2
   Plt
   119
   116
   62
   160
   125
   Cr
   1.1
   1.0
   TCO2
   22
   31
   30
   29
   Glucose
   141
   152
   107
   Other labs: PT / PTT / INR:13.7/32.1/1.2, ALT / AST:18/36, Alk Phos / T
   Bili:43/0.7, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:7.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:205 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.5 g/dL, LDH:444 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   Imaging: CXR:  ETT and CVL in place
   Microbiology: No positive micro
   Assessment and Plan
   22-year-old woman with complex recent course of spontaneous vaginal
   delivery, endometritis, continued hemorrhage, and hypotension.  S/P
   D&C, D&E, and most recently bilateral uterine artery ligation and
   compression sutures.
   HYPOTENSION
   Combination of sepsis and hypovolemia from blood loss.  Has been fluid
   responsive, and her hemorrhage appears to have been controlled.
   PYOMETRIUM / ENDOMETRITIS
   Continue present antibiotics (vanco, gent, clinda)
   Follow cultures
   Has undergone surgical control of site of infection.  However, blood
   supply to the site of infection is decreased because of surgical
   intervention, so need to maintain vigilance for recrudescent sepsis.
   ANEMIA secondary to blood loss and possible hemoloysis/DIC
   s/p uterine artery ligation and compression sutures
   DIC appears to be improving
 follow Hct, fibrinogen, etc. today
   SHOCK
 Combination of sepsis (pyometrium) and hypovolemia (blood
   loss).  Responded to current level of therapy. Continue current
   management and level of support.  Monitor for DIC.
   PYOMETREIUM -- Continue antimicrobials (Amp/Gent/Clinda).  Monitor
   exam.
   ANEMIA -- s/p transfusion.  Persisistently low Hct suggest ongoing
   bleeding.  Transfuse if Hct <25.
   FLUIDS -- replete.  Euvolemic.  Monitor I/O, maintain balance.
   UTERINE ATONY
 s/p D&C.  Continue pittocin and methergin..
   Obstetrical service following
   RENAL FUNCTION
 preserved.  Monitor urine output, BUN, creatinine.
   CODE: FULL
   Contact: [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 9651**] [**Name2 (NI) 9652**] [**Numeric Identifier 9653**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-23**] 11:42 PM
   18 Gauge - [**2102-11-23**] 11:46 PM
   16 Gauge - [**2102-11-24**] 11:06 PM
   Multi Lumen - [**2102-11-25**] 05:52 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: add H2B
   VAP: HOB elevation, Mouth care
   Comments: Leave intubated until control of hemorrhage and sepsis is
   clear
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Discussed with mother by phone by our team, and with significant other
   at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2102-11-26 08:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2102-11-25**] 08:00 PM
 URINE CULTURE - At [**2102-11-25**] 08:00 PM
 FEVER - 102.4
F - [**2102-11-25**] 09:00 PM
   - pt continued to do well overnight and kept pressures up SBP high 90s
   to low 100s
   - OB recs to change DIC labs to [**Hospital1 **] i/o q4h
   - maybe SBT today?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2102-11-24**] 06:06 AM
   Vancomycin - [**2102-11-25**] 07:32 PM
   Gentamicin - [**2102-11-25**] 11:36 PM
   Clindamycin - [**2102-11-26**] 01:52 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-11-25**] 09:36 PM
   Famotidine (Pepcid) - [**2102-11-25**] 11:36 PM
   Fentanyl - [**2102-11-26**] 04:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-26**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.3
C (101
   HR: 69 (61 - 87) bpm
   BP: 115/63(85) {89/53(68) - 119/66(88)} mmHg
   RR: 15 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 68.2 kg
   Height: 65 Inch
    CVP: 4 (1 - 14)mmHg
   Total In:
                                                                  9,684 mL
                                                                  1,115 mL
   PO:
   TF:
   IVF:
                                                                  8,984 mL
                                                                  1,115 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  6,080 mL
                                                                  1,620 mL
   Urine:
                                                                  6,080 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,604 mL
                                                                   -505 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 133 (133 - 133) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 7 L/min
   Physical Examination
   GEN: pleasant young AAF, responsive to voice commands, shakes head yes
   and no, asks for time
   HEENT: anicteric sclerae, PERRL
   CV: Regular rate and rhythm, nl S1, S2 no murmurs appreciated
   Lungs: CTAB/l, no wheeze or rales
   Abd: +BS soft slightly distended, markedly TTP over uterus, uterus
   about 2cm below level of umbilicus
   Ext: no edema B/L LE
   Neuro: more alert, answering questions
   Labs / Radiology
   146 K/uL
   11.4 g/dL
   92 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.0 mEq/L
   9 mg/dL
   107 mEq/L
   142 mEq/L
   31.9 %
   7.5 K/uL
        [image002.jpg]
                            [**2102-11-24**]  09:06 PM
                            [**2102-11-25**]  12:49 AM
                            [**2102-11-25**]  01:21 AM
                            [**2102-11-25**]  03:44 AM
                            [**2102-11-25**]  05:06 AM
                            [**2102-11-25**]  05:14 AM
                            [**2102-11-25**]  08:51 AM
                            [**2102-11-25**]  01:43 PM
                            [**2102-11-25**]  05:36 PM
                             [**2102-11-26**]  03:02 AM
   WBC
   12.2
   10.5
   9.9
   10.2
   7.5
   Hct
   33
   29.1
   22.2
   28.9
   29.1
   30.7
   31.9
   Plt
   160
   125
   114
   135
   146
   Cr
   1.1
   1.0
   1.0
   0.9
   1.0
   TCO2
   22
   31
   30
   29
   Glucose
   141
   152
   107
   102
   102
   92
   Other labs: PT / PTT / INR:11.8/27.3/1.0, ALT / AST:23/51, Alk Phos / T
   Bili:54/0.9, Differential-Neuts:64.0 %, Band:1.0 %, Lymph:27.0 %,
   Mono:7.0 %, Eos:0.0 %, Fibrinogen:315 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:499 IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   A/P: 22yo AAF s/p vaginal delivery complicated by pyometrium and
   retained POCs, continued hemorrhage d/t uterine atony s/p d&c, d&e and
   b/l uterine atery ligation, hemodynamically stable and clinically
   improving.
   1. Pyometrium/ endometritis- s/p D&E w/ US showing fluid collection in
   pelvis
   - will continue Abx Vanc/ Gent/ Clinda broad coverage
   - continue trend fever curve (101s now from 104) and WBC
   - f/u OB recs- wanted ID c/s
   - f/u ID recs
   - CT pelvis w/ contrast showed no evidence of septic thrombophlebitis,
   known pyometrium
   - plan for SBT and extubation today
   - pain control w/ extubation, oxycodone, fentanyl +/- PCA
    2. Uterine atony-  profuse blood loss, hypotension and shock [**2-27**]
   septic and hemorrhagic physiology.
   - Continue monitor HCTs and DIC labs  [**Hospital1 **] instead of q4 h as per OB
   recs
   - Transfuse for HCT < 25, plt < 100, fibrinogen <100, INR >2
   - continue methergin and pitocin for management of uterine atony
   - f/u OB recs
   - if hemodynamically unstable, low threshold to call OB for OR-> pt
   consented for hysterectomy
   - for anemia, since HCT increasing could be [**2-27**] hemoconcentration or
   due to folate and iron deficiency, so will
   Supplement with iron and folate.
   FEN: Clears, IVFs, blood products, replete lytes PRN- monitor calcium
   Contact: [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 9651**] (HCP)
   [**Name (NI) 9652**] (bf) [**Numeric Identifier 9653**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-23**] 11:42 PM
   18 Gauge - [**2102-11-23**] 11:46 PM
   16 Gauge - [**2102-11-24**] 11:06 PM
   Multi Lumen - [**2102-11-25**] 05:52 AM
   Prophylaxis:
   DVT: heparin SC 5000 BID
   Stress ulcer:  H2 blocker (famotidine)
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2102-11-26 10:42:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: uterine hemorrhage, uterine infection, hypotension,
   sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2102-11-25**] 08:00 PM
 URINE CULTURE - At [**2102-11-25**] 08:00 PM
 FEVER - 102.4
F - [**2102-11-25**] 09:00 PM
   No major clinical bleeding.  CT negative (prelim) for septic
   thrombophlebitis.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2102-11-24**] 06:06 AM
   Gentamicin - [**2102-11-25**] 11:36 PM
   Vancomycin - [**2102-11-26**] 09:02 AM
   Clindamycin - [**2102-11-26**] 10:00 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-11-25**] 09:36 PM
   Famotidine (Pepcid) - [**2102-11-25**] 11:36 PM
   Fentanyl - [**2102-11-26**] 10:00 AM
   Other medications:
   clinda, gent, vanco, propofol, H2B, methergine (last dose at noon),
   CHG, SQH, pitocin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-26**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.3
C (101
   HR: 104 (61 - 104) bpm
   BP: 126/78(99) {89/53(69) - 126/78(99)} mmHg
   RR: 21 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 68.2 kg
   Height: 65 Inch
   CVP: 4 (4 - 13)mmHg
   Total In:
                                                                  9,684 mL
                                                                  1,672 mL
   PO:
   TF:
   IVF:
                                                                  8,984 mL
                                                                  1,672 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  6,080 mL
                                                                  2,540 mL
   Urine:
                                                                  6,080 mL
                                                                  2,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,604 mL
                                                                   -868 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 500 (133 - 500) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 14 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: still tender over uterus
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   146 K/uL
   92 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.0 mEq/L
   9 mg/dL
   107 mEq/L
   142 mEq/L
   31.9 %
   7.5 K/uL
        [image002.jpg]
                            [**2102-11-24**]  09:06 PM
                            [**2102-11-25**]  12:49 AM
                            [**2102-11-25**]  01:21 AM
                            [**2102-11-25**]  03:44 AM
                            [**2102-11-25**]  05:06 AM
                            [**2102-11-25**]  05:14 AM
                            [**2102-11-25**]  08:51 AM
                            [**2102-11-25**]  01:43 PM
                            [**2102-11-25**]  05:36 PM
                             [**2102-11-26**]  03:02 AM
   WBC
   12.2
   10.5
   9.9
   10.2
   7.5
   Hct
   33
   29.1
   22.2
   28.9
   29.1
   30.7
   31.9
   Plt
   160
   125
   114
   135
   146
   Cr
   1.1
   1.0
   1.0
   0.9
   1.0
   TCO2
   22
   31
   30
   29
   Glucose
   141
   152
   107
   102
   102
   92
   Other labs: PT / PTT / INR:11.8/27.3/1.0, ALT / AST:23/51, Alk Phos / T
   Bili:54/0.9, Differential-Neuts:64.0 %, Band:1.0 %, Lymph:27.0 %,
   Mono:7.0 %, Eos:0.0 %, Fibrinogen:315 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:499 IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.0
   mg/dL
   Microbiology: pending
   Assessment and Plan
   22-year-old woman with complex recent course of spontaneous vaginal
   delivery, endometritis, continued hemorrhage, and hypotension.  S/P
   D&C, D&E, and most recently bilateral uterine artery ligation and
   compression sutures.  Has been hemodynamically stable without bleeding
   overnight
   Respiratory failure
   She has tolerated an SBT
 will extubate
   Pyometrium / Endometritis
          Continue present antibiotics (vanco, gent, clinda)
          Follow cultures
          Has undergone surgical control of site of infection.
   However, blood supply to the site of infection is decreased because of
   surgical intervention, so need to maintain vigilance for recrudescent
   sepsis.  Overall though, fever curve appears to be improving.
          Will ask ID for input with antibiotic management
   Anemia
          Secondary to blood loss and possible hemoloysis/DIC
          s/p uterine artery ligation and compression sutures
          Labs reassuring regarding DIC
          Add iron, folate vitamin supplementation
   UTERINE ATONY
   Continue pitocin and methergine as per OB.  Obstetrical service
   following very closely.
   Contact: [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 9651**] [**Name2 (NI) 9652**] [**Numeric Identifier 9653**]
   ICU Care
   Nutrition: NPO for extubation
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-23**] 11:42 PM
   18 Gauge - [**2102-11-23**] 11:46 PM
   16 Gauge - [**2102-11-24**] 11:06 PM
   Multi Lumen - [**2102-11-25**] 05:52 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   Addendum
          Seen after extubation.
          She is doing well from a respiratory and hemodynamic
   standpoint.
          Pain is controlled on present regimen.
          She has two specific complaints:
   1)       Her right wrist hurts at the site of prior arterial
   punctures.  On exam, there is no erythema or fluctuance, but it is
   tender.  Distal sensation in the radial distribution is completely
   intact.  We will follow clinically for now since there are no signs of
   infection.  However, if pain is not improved soon, or if any signs of
   infection or neurologic signs develop, will ask hand surgery to see.
   2)       She is upset that she received a central line.  Although I was
   not caring for Ms. [**Known lastname 9674**] when the line was placed, the
   decisionmaking is well-documented (see Dr. [**Last Name (STitle) 529**]
s note from
   [**2102-11-25**] 05:33), as is the fact that
 since Ms. [**Known lastname 9674**] was
   intubated, sedated, hypotense, and septic
 the ICU team discussed the
   issue with her mother/HCP, who wished to proceed.  I reviewed this with
   her and significant other [**Name (NI) **], and answered all questions about how
   and why the decision was made.
   We will keep in ICU and monitor closely, since she is at meaningful
   risk for recrudescent sepsis or hemorrhage, and has just been
   extubated.
   35 minutes

2102-11-27 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   22yo AAF s/p vaginal delivery complicated by pyometrium and retained
   POCs, continued hemorrhage d/t uterine atony s/p d&c, d&e and b/l
   uterine atery ligation, hemodynamically stable and clinically
   improving.
   24 Hour Events:
   -Successfully extubated
   -Per ID recs, discontinued all current Antibiotics and started the
   patient on Meropenem and Doxycycline.  ID made recommendations to stop
   Vanco once blood cultures negative x 72 hours, which was done in AM,
   but was re-started in PM per Dr. [**Last Name (STitle) 560**] as there is a large number of
   MRSA cases in postpartum women in this hospital.
   - Will follow up daily ESR and CRP per ID
   -CRP in AM 122.
   -Switched to IV Dilaudid for pain control per Ob recs
   -Started on D51/2NS@100cc/hr IVF per Ob recs
   -Afternoon labs: ESR 15, DIC labs negative
   -Blood cultures all pending
   Official CT abd/pelvis read from [**2102-11-25**] - Known post-surgical change
   of pyometrium with heterogeneous enlarged
   irregular appearance of the uterus and fluid-filled endometrial cavity
   with irregular walls. Associated pelvic free fluid and mild wall
   thickening involving the adjacent bladder, sigmoid colon, and loop of
   small bowel within the right lower quadrant that may represent mild
   associated inflammatory changes.
   -The patient spiked another fever to 102.7F at night.  Seen by Ob/Gyn,
   who wanted to take the patient to OR for hysterectomy.  The patient
   would not consent until her mother arrived, at which point a decision
   was made to delay surgery for now until the pt. has another febrile
   episode.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2102-11-25**] 11:36 PM
   Clindamycin - [**2102-11-26**] 10:00 AM
   Doxycycline - [**2102-11-26**] 07:11 PM
   Vancomycin - [**2102-11-26**] 09:00 PM
   Meropenem - [**2102-11-27**] 03:03 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2102-11-26**] 10:00 AM
   Famotidine (Pepcid) - [**2102-11-26**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-27**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.5
C (101.3
   HR: 86 (63 - 106) bpm
   BP: 123/72(89) {110/59(81) - 150/86(107)} mmHg
   RR: 21 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 68.2 kg
   Height: 65 Inch
    CVP: 4 (1 - 5)mmHg
   Total In:
                                                                  4,049 mL
                                                                    906 mL
   PO:
   TF:
   IVF:
                                                                  3,989 mL
                                                                    906 mL
   Blood products:
   Total out:
                                                                  4,525 mL
                                                                    850 mL
   Urine:
                                                                  4,525 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -476 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 9.7 L/min
   Physical Examination
   GEN: pleasant young AAF, responsive to voice commands, shakes head yes
   and no, asks for time
   HEENT: anicteric sclerae, PERRL
   CV: Regular rate and rhythm, nl S1, S2 no murmurs appreciated
   Lungs: CTAB/l, no wheeze or rales
   Abd: +BS soft slightly distended, markedly TTP over uterus, uterus
   about 2cm below level of umbilicus
   Ext: no edema B/L LE
   Neuro: more alert, answering questions
   Labs / Radiology
   173 K/uL
   10.8 g/dL
   117 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.6 mEq/L
   8 mg/dL
   107 mEq/L
   140 mEq/L
   30.7 %
   7.1 K/uL
        [image002.jpg]
                            [**2102-11-25**]  01:21 AM
                            [**2102-11-25**]  03:44 AM
                            [**2102-11-25**]  05:06 AM
                            [**2102-11-25**]  05:14 AM
                            [**2102-11-25**]  08:51 AM
                            [**2102-11-25**]  01:43 PM
                            [**2102-11-25**]  05:36 PM
                             [**2102-11-26**]  03:02 AM
                             [**2102-11-26**]  04:00 PM
                             [**2102-11-27**]  02:39 AM
   WBC
   12.2
   10.5
   9.9
   10.2
   7.5
   7.6
   7.1
   Hct
   29.1
   22.2
   28.9
   29.1
   30.7
   31.9
   31.0
   30.7
   Plt
   160
   125
   114
   135
   146
   156
   173
   Cr
   1.1
   1.0
   1.0
   0.9
   1.0
   0.8
   0.8
   TCO2
   30
   29
   Glucose
   152
   107
   102
   102
   92
   93
   117
   Other labs: PT / PTT / INR:12.2/30.7/1.0, ALT / AST:30/61, Alk Phos / T
   Bili:51/0.4, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:27.0 %,
   Mono:3.0 %, Eos:1.0 %, Fibrinogen:314 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:485 IU/L, Ca++:7.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   A/P: 22yo AAF s/p vaginal delivery complicated by pyometrium and
   retained POCs, continued hemorrhage d/t uterine atony s/p d&c, d&e and
   b/l uterine atery ligation, hemodynamically stable and clinically
   improving.
   1. Pyometrium/ endometritis- s/p D&E w/ US showing fluid collection in
   pelvis
   - will continue Abx Vanc/ Gent/ Clinda broad coverage
   - continue trend fever curve (101s now from 104) and WBC
   - f/u OB recs- wanted ID c/s
   - f/u ID recs
   - CT pelvis w/ contrast showed no evidence of septic thrombophlebitis,
   known pyometrium
   - plan for SBT and extubation today
   - pain control w/ extubation, oxycodone, fentanyl +/- PCA
    2. Uterine atony-  profuse blood loss, hypotension and shock [**2-27**]
   septic and hemorrhagic physiology.
   - Continue monitor HCTs and DIC labs  [**Hospital1 **] instead of q4 h as per OB
   recs
   - Transfuse for HCT < 25, plt < 100, fibrinogen <100, INR >2
   - continue methergin and pitocin for management of uterine atony
   - f/u OB recs
   - if hemodynamically unstable, low threshold to call OB for OR-> pt
   consented for hysterectomy
   - for anemia, since HCT increasing could be [**2-27**] hemoconcentration or
   due to folate and iron deficiency, so will
   Supplement with iron and folate.
   FEN: Clears, IVFs, blood products, replete lytes PRN- monitor calcium
   Contact: [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 9651**] (HCP)
   [**Name (NI) 9652**] (bf) [**Numeric Identifier 9653**]
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-23**] 11:42 PM
   18 Gauge - [**2102-11-23**] 11:46 PM
   16 Gauge - [**2102-11-24**] 11:06 PM
   Multi Lumen - [**2102-11-25**] 05:52 AM
   Prophylaxis:
   DVT: heparin SC 5000 BID
   Stress ulcer:  H2 blocker (famotidine)
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2102-11-27 11:24:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday AM, remains extubated.
   Complains of moderate pain in right wrist (in area of prior ABG
   attempts).  Describes paresthesias of right thumb.
                          History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2102-11-25**] 11:36 PM
   Clindamycin - [**2102-11-26**] 10:00 AM
   Vancomycin - [**2102-11-27**] 07:50 AM
   Doxycycline - [**2102-11-27**] 09:00 AM
   Meropenem - [**2102-11-27**] 10:39 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2102-11-26**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain location: Pelvic (mild); right wrist moderate
   Flowsheet Data as of  [**2102-11-27**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.5
C (101.3
   HR: 69 (63 - 106) bpm
   BP: 142/79(101) {110/59(81) - 150/86(107)} mmHg
   RR: 20 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 68.2 kg
   Height: 65 Inch
   CVP: 4 (1 - 5)mmHg
   Total In:
                                                                  4,049 mL
                                                                  1,788 mL
   PO:
   TF:
   IVF:
                                                                  3,989 mL
                                                                  1,788 mL
   Blood products:
   Total out:
                                                                  4,525 mL
                                                                  1,650 mL
   Urine:
                                                                  4,525 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -476 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese, Midline lower abd incision,
   intact
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand, Right
   wrist tender, hematoma.  Intact distal pulse and capilary refill.
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   173 K/uL
   117 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.6 mEq/L
   8 mg/dL
   107 mEq/L
   140 mEq/L
   30.7 %
   7.1 K/uL
        [image002.jpg]
                            [**2102-11-25**]  01:21 AM
                            [**2102-11-25**]  03:44 AM
                            [**2102-11-25**]  05:06 AM
                            [**2102-11-25**]  05:14 AM
                            [**2102-11-25**]  08:51 AM
                            [**2102-11-25**]  01:43 PM
                            [**2102-11-25**]  05:36 PM
                             [**2102-11-26**]  03:02 AM
                             [**2102-11-26**]  04:00 PM
                             [**2102-11-27**]  02:39 AM
   WBC
   12.2
   10.5
   9.9
   10.2
   7.5
   7.6
   7.1
   Hct
   29.1
   22.2
   28.9
   29.1
   30.7
   31.9
   31.0
   30.7
   Plt
   160
   125
   114
   135
   146
   156
   173
   Cr
   1.1
   1.0
   1.0
   0.9
   1.0
   0.8
   0.8
   TCO2
   30
   29
   Glucose
   152
   107
   102
   102
   92
   93
   117
   Other labs: PT / PTT / INR:12.2/30.7/1.0, ALT / AST:30/61, Alk Phos / T
   Bili:51/0.4, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:27.0 %,
   Mono:3.0 %, Eos:1.0 %, Fibrinogen:314 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:485 IU/L, Ca++:7.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   SHOCK
 Resolved.  Combination of sepsis (pyometrium) and hypovolemia
   (blood loss).  s/p DIC.  Continue current management and level of
   support.
   PYOMETREIUM -- Continue antimicrobials
   (Vanco/Meropenim/Doxicycline/Clinda).  Monitor exam.  Hopefully will
   avoid hysterectomy.  OB service following.
   ANEMIA -- following initial D&C, returned to OR for ligation of uterine
   arteries.  Now with no further evidence for active bleeding.  Transfuse
   if Hct <25.
   FLUIDS -- replete.  Euvolemic.  Monitor I/O, maintain balance.
   RIGHT WRIST PAIN -- related to ABG attempts.  Suspect hematoma with
   local compression.  Heat or cold pack.  Consider Vascular Surgery to
   evaluate for possible compartment syndrome.
   UTERINE ATONY
 s/p D&C.  a/p pittocin and methergin, and most recently
   surgical ligation of uterus.  Obstetrical service following.
   RENAL FUNCTION
 preserved.  Monitor urine output, BUN, creatinine.
   HYPOKALEMIA -- replete to K>4.0
   LINES
 consider discontinuation of A-line and cordis.
   NUTRITIONAL SUPPORT -- advance diet as tolerated.
   Contact: [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 9651**] [**Name2 (NI) 9652**] [**Numeric Identifier 9653**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-23**] 11:42 PM
   18 Gauge - [**2102-11-23**] 11:46 PM
   16 Gauge - [**2102-11-24**] 11:06 PM
   Multi Lumen - [**2102-11-25**] 05:52 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-11-28 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Vacomycin dose was changed to 1000mg q8hrs.  Diet was advanced to
   clears.
   TTE showed no endocarditis, not vascular regurg and normal systolic
   function.
   Pt. was switched to PO oxycodone PRN for pain control.  Arterial line
   and cordis were d/c
d.  Famotidine was d/c
d.  Vascular surgery  was
   consulted about right wrist pain and parasthesias, and determined that
   there was no vascular injury.
   Wrist symptoms were also evaluated by plastic surgery, and identified a
   likely injury to sensory branch of radial nerve, recommend splinting of
   wrist.  X-ray of wrist  (3 views of wrist ) showed no fracture.
   The patient was febrile overnight to 101.2, the patient was made NPO,
   given IVF fluids, am dose of Heparin SC held, because of possibility
   that the patient may require TAH in AM.
   However, this AM the pt. fevers subsided.  She reports that her
   abdominal pain is under control.  Denies SOB, CP, n/v.  Small amount of
   bloody abdominal discharge on pad.  Reports right neck pain at the site
   of R IJ catheter insertion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2102-11-25**] 11:36 PM
   Clindamycin - [**2102-11-26**] 10:00 AM
   Doxycycline - [**2102-11-27**] 08:00 PM
   Vancomycin - [**2102-11-28**] 12:00 AM
   Meropenem - [**2102-11-28**] 03:48 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2102-11-27**] 02:28 PM
   Heparin Sodium (Prophylaxis) - [**2102-11-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-28**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.3
C (100.9
   HR: 88 (57 - 96) bpm
   BP: 112/64(76) {104/55(67) - 120/83(91)} mmHg
   RR: 16 (10 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 68.2 kg
   Height: 65 Inch
    CVP: 3 (2 - 3)mmHg
   Total In:
                                                                  3,158 mL
                                                                    894 mL
   PO:
   TF:
   IVF:
                                                                  3,158 mL
                                                                    894 mL
   Blood products:
   Total out:
                                                                  3,010 mL
                                                                  1,130 mL
   Urine:
                                                                  3,010 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                   -236 mL
   Respiratory support
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   GEN: pleasant young AAF, alert, responsive in NAD
   HEENT: anicteric sclerae, PERRL.  Neck: full range of motion, no
   massess, no hematoma, no erythema.
   CV: Regular rate and rhythm, nl S1, S2 no murmurs appreciated
   Lungs: CTAB/l, no wheeze or rales
   Abd: +BS soft non- distended, low-abdominal surgical scar c/d/i , with
   tenderness to palpation in the area
   Ext: no edema B/L LE
   Neuro: more alert, answering questions
   Right hand: ttp, hematoma, parathesias of 1^st digit.
   Labs / Radiology
   179 K/uL
   10.8 g/dL
   105 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   9 mg/dL
   106 mEq/L
   138 mEq/L
   31.7 %
   8.9 K/uL
        [image002.jpg]
                            [**2102-11-25**]  05:14 AM
                            [**2102-11-25**]  08:51 AM
                            [**2102-11-25**]  01:43 PM
                            [**2102-11-25**]  05:36 PM
                             [**2102-11-26**]  03:02 AM
                             [**2102-11-26**]  04:00 PM
                             [**2102-11-27**]  02:39 AM
                             [**2102-11-27**]  02:18 PM
                             [**2102-11-27**]  08:05 PM
                             [**2102-11-28**]  03:35 AM
   WBC
   9.9
   10.2
   7.5
   7.6
   7.1
   8.9
   Hct
   28.9
   29.1
   30.7
   31.9
   31.0
   30.7
   30.6
   31.7
   31.7
   Plt
   114
   135
   146
   156
   173
   179
   Cr
   1.0
   0.9
   1.0
   0.8
   0.8
   0.8
   TCO2
   29
   Glucose
   102
   102
   92
   93
   117
   105
   Other labs: PT / PTT / INR:12.8/31.3/1.1, ALT / AST:44/101, Alk Phos /
   T Bili:54/0.4, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:27.0 %,
   Mono:3.0 %, Eos:1.0 %, Fibrinogen:202 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:523 IU/L, Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Blood Cx, Cordis Tip Cx: pending
   Urine Cx negative, MRSA screen negative
   Assessment and Plan
   A/P: 22yo AAF s/p vaginal delivery complicated by pyometrium and
   retained POCs, continued hemorrhage d/t uterine atony s/p d&c, d&e and
   b/l uterine artery ligation, hemodynamically stable and clinically
   improving.
   1. Pyometrium/ fevers -  fevers subsiding today,  pt. appears
   significantly improved clinically
   - will continue broad Abx coverage with Vanc, Meropenem and Doxycycline
   per ID recs.  Increase Vanc dose to q8hrs .
   - Continue to f/u Cultures
   - continue trend fever curve and WBC
   - F/u daily ESR and CRP
   - f/u OB recs
   - f/u ID recs
   - continue PO oxycodone PRN for pain control.
    2. Uterine atony - The patient has remained hemodynamically stable
   with stable Hct and no evidence of active vaginal bleed.
   - Monitor Hct [**Hospital1 **] and Transfuse for HCT < 25, or signs of active bleed
   - F/u DIC labs daily given several negative DIC labs at this point
   - Maintain active T&S
   - f/u OB recs
   - if hemodynamically unstable, evidence of worsening infection or
   bleed, low threshold to call OB for OR
   - Continue supplementation with iron and MVI.
   3. Wrist pain: The patient has developed area on R wrist with
   significant amount of discomfort and parathesias, likely hematoma
   seconday to ABG
   - Splint per plastics recs.
   FEN: Advance diet to regular if tolerated, stop IVFs if pt. tolerates
   PO, replete lytes PRN
   Contact: [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 9651**] (HCP)
   [**Name (NI) 9652**] (bf) [**Numeric Identifier 9653**]
   ICU Care
   Glycemic Control:
   Lines: Multi Lumen - [**2102-11-25**] 05:52 AM
   -Place PIVs and remove right IJ today
   Prophylaxis:
   DVT: Heparin SC 5000 BID
   Stress ulcer:  None
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor today

2102-11-28 11:15:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2102-11-28 11:37:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overall, improved.
   Up in chair.
   Tolerating small quantities clear liquids.
   Fever max lower today.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2102-11-25**] 11:36 PM
   Clindamycin - [**2102-11-26**] 10:00 AM
   Doxycycline - [**2102-11-28**] 07:56 AM
   Vancomycin - [**2102-11-28**] 08:59 AM
   Meropenem - [**2102-11-28**] 10:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2102-11-27**] 02:28 PM
   Heparin Sodium (Prophylaxis) - [**2102-11-28**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-11-28**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.7
C (99.8
   HR: 105 (57 - 105) bpm
   BP: 97/64(72) {97/55(67) - 120/83(91)} mmHg
   RR: 14 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67 kg (admission): 68.2 kg
   Height: 65 Inch
   CVP: 3 (2 - 3)mmHg
   Total In:
                                                                  3,158 mL
                                                                  1,658 mL
   PO:
   TF:
   IVF:
                                                                  3,158 mL
                                                                  1,658 mL
   Blood products:
   Total out:
                                                                  3,010 mL
                                                                  1,590 mL
   Urine:
                                                                  3,010 mL
                                                                  1,590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Lower abdominal midline incision
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   179 K/uL
   105 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   9 mg/dL
   106 mEq/L
   138 mEq/L
   31.7 %
   8.9 K/uL
        [image002.jpg]
                            [**2102-11-25**]  05:14 AM
                            [**2102-11-25**]  08:51 AM
                            [**2102-11-25**]  01:43 PM
                            [**2102-11-25**]  05:36 PM
                             [**2102-11-26**]  03:02 AM
                             [**2102-11-26**]  04:00 PM
                             [**2102-11-27**]  02:39 AM
                             [**2102-11-27**]  02:18 PM
                             [**2102-11-27**]  08:05 PM
                             [**2102-11-28**]  03:35 AM
   WBC
   9.9
   10.2
   7.5
   7.6
   7.1
   8.9
   Hct
   28.9
   29.1
   30.7
   31.9
   31.0
   30.7
   30.6
   31.7
   31.7
   Plt
   114
   135
   146
   156
   173
   179
   Cr
   1.0
   0.9
   1.0
   0.8
   0.8
   0.8
   TCO2
   29
   Glucose
   102
   102
   92
   93
   117
   105
   Other labs: PT / PTT / INR:12.8/31.3/1.1, ALT / AST:44/101, Alk Phos /
   T Bili:54/0.4, Differential-Neuts:65.0 %, Band:0.0 %, Lymph:27.0 %,
   Mono:3.0 %, Eos:1.0 %, Fibrinogen:202 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:523 IU/L, Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   ENDOMETRITIS -- Continue antimicrobials
   (Vanco/Meropenim/Doxicycline/Clinda).  Clinical imrpovement, Tmax lower
   today.  Monitor exam.  Hopefully will avoid hysterectomy.  OB service
   following.
   ANEMIA -- following initial D&C, returned to OR for ligation of uterine
   arteries.  Now with no further evidence for active bleeding.  Transfuse
   if Hct <25.
   FLUIDS -- replete.  Euvolemic.  Monitor I/O, maintain balance.
   RIGHT WRIST PAIN -- related to ABG attempts.  Suspect hematoma with
   local compression.  Heat or cold pack.  Vascular & Plastic Surgery
   evaluation without evidence for compartment syndrome --> hand splint.
   UTERINE ATONY
 s/p D&C.  a/p pittocin and methergin, and most recently
   surgical ligation of uterus.  Obstetrical service following.
   SHOCK
 Resolved.  Combination of sepsis (pyometrium) and hypovolemia
   (blood loss).  s/p DIC.  Continue current management and level of
   support.
   RENAL FUNCTION
 preserved.  Monitor urine output, BUN, creatinine.
   HYPOKALEMIA -- replete to K>4.0
   HYPOCALCEMIA -- replete iv to normal value.
   LINES
 Hope to discontinue central line once peripheral lines
   established.
   NUTRITIONAL SUPPORT -- advance diet as tolerated.
   ACTIVITY -- ambulate as tolerated.
   Contact: [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 9651**] [**Name2 (NI) 9652**] [**Numeric Identifier 9653**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-11-23**] 11:46 PM
   Multi Lumen - [**2102-11-25**] 05:52 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes